US09302259B2
The reaction mixture was filtered to recycle the solid phase and yielded 280 ml of condensed liquid. Analysis of the liquid confirmed that the conversion of nitrobenzene was approximately 99%, and the content of 4-NDPA and 4-NDOPA was 18% based on condense liquid. A small amount of azobenzene and other by-products were produced in the reaction. The 280 ml condense liquid was diluted with 70 ml water and 5 wt % Raney nickel catalyst was added to a high pressure hydrogenation reactor. In order to ensure the absence of oxygen gas, hydrogen gas was passed into the reactor to replace the atmosphere inside. The reaction mixture was heated and the pressure was controlled at about 1.5 Mpa. The mixture was heated to about 60° C., and the stir was opened and the hydrogenation reaction was begun. The reaction temperature was maintained at 80-120° C. for 2 hours. The reaction stopped when no hydrogen gas was found to be absorbed.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 4-NDPA | C1=CC=C(C=C1)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H10N2O2
product | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
